US08012976B2
A mixture of 4-(4-isobutyrylpiperazine-1-carbonyl)benzaldehyde (950 mg, 3.3 mmol) and (E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one (1.018 g, 3 mmol) in ethyl propionate (40 mL) was cooled to 0° C. Then a solution of sodium methoxide in methanol [sodium (345 mg, 12 mmol) in methanol (8 mL)] was added dropwise. After the addition, the mixture was stirred at room temperature for 24 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by chromatography (silica gel, petroleum ether/ethyl acetate=10:1 to 1:10) to give methyl 2-(4-(diethoxymethyl)phenyl)-3-(4-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (491 mg, yield 25%).

reactant | 4-(4-isobutyrylpiperazine-1-carbonyl)benzaldehyde | 3.3 mmol, 950 mg | C(C(C)C)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=O)C=C1 | C16H20N2O3
reactant | (E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one | 3 mmol, 1.018 g | C(C)OC(C1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1)OCC | C20H21NO4
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 12 mmol, 8 mL, 345 mg | CO | CH4O
solvent | ethyl propionate | 40 mL | C(CC)(=O)OCC | C5H10O2
product | methyl 2-(4-(diethoxymethyl)phenyl)-3-(4-(4-isobutyrylpiperazine-1-carbonyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 491 mg, yield 25% | C(C)OC(C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)C(=O)N1CCN(CC1)C(C(C)C)=O)=O)C(=O)OC)OCC | C37H43N3O7
